US04988692
STEP A: 7-chloro-1-methyl-5-phenyl-1H-1,5-benzodiazepin-2,3,4(5H)-trione 3-oxime
3 g of 7-chloro-1-methyl-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione were suspended in 30 ml of tert-butanol and 1.12 g of potassium tert-butylate were added in small fractions. While maintaining the temperature at 20° C. with a water bath, 2.3 ml of tert-amyl nitrite were added and the solution thickened and a precipitate formed. After standing for 16 hours at ambient temperature, the precipitate formed was separated off (potassium salt of the oxime) and dissolved in 20 ml of water and acidified by acetic acid. The precipitate formed was extracted and the organic phase was washed with water, dried and concentrated to obtain 2.8 g of the expected product (yield=85%) melting at approx. 50° C.

reactant | 7-chloro-1-methyl-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 3 g | ClC1=CC2=C(N(C(CC(N2C2=CC=CC=C2)=O)=O)C)C=C1 | C16H13ClN2O2
reactant | potassium tert-butylate | 1.12 g | CC(C)(C)[O-].[K+]
reactant | tert-amyl nitrite | 2.3 ml | N(=O)OC(C)(C)CC | C5H11NO2
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | 7-chloro-1-methyl-5-phenyl-1H-1,5-benzodiazepin-2,3,4(5H)-trione 3-oxime | 2.8 g, yield=85% | ClC1=CC2=C(N(C(C(C(N2C2=CC=CC=C2)=O)=NO)=O)C)C=C1 | C16H12ClN3O3
